US07531532B2
Morpholine-4-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide
To a solution of morpholine-4-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide (54 mg) in N,N-dimethylformamide (1.0 ml) was added a solution of phenylacetyl isocyanate in hexane (0.972 ml, Production Example 1), followed by stirring at room temperature for 25 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and water (30 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1 to 1:2, ethyl acetate, ethyl acetate:methanol=20:1 to 10:1). Fractions containing the target compound were concentrated to give a solid, which was suspended in ethyl acetate. The solid was filtered off, washed with ethyl acetate, and dried under aeration to provide the titled compound (9.5 mg, 12%) as colorless powder.

reactant | morpholine-4-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 54 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)F | C16H17FN4O3
reactant | phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | Pyrrolidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide | 0.972 ml | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C24H23FN6O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Morpholine-4-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide | 9.5 mg, 12% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C25H24FN5O5
